US07863291B2
To 4-(difluoromethoxy)aniline (9.55 g, 60 mmol) in acetic acid (90 mL) was added potassium thiocyanate (KSCN) (12.41 mL, 240 mmol). The mixture was stirred for 20 minutes (KSCN dissolved into solution). To this mixture bromine (3.08 mL, 60.0 mmol) in acetic acid (40 mL) was added dropwise over 20 minutes. The reaction was stirred at room temperature overnight. It was poured into a mixture of 800 ml ice water and 200 ml saturated ammonium hydroxide. The product was extracted with ethyl acetate (5×). The organics were combined, washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford 6-(difluoromethoxy)benzo[d]thiazol-2-amine (12.6 g, 52.4 mmol, 87% yield) as a yellow solid.

reactant | 4-(difluoromethoxy)aniline | 60 mmol, 9.55 g | FC(OC1=CC=C(N)C=C1)F | C7H7F2NO
reactant | potassium thiocyanate | 240 mmol, 12.41 mL | [S-]C#N.[K+]
reactant | bromine | 60.0 mmol, 3.08 mL | BrBr | Br2
reactant | ammonium hydroxide | 200 ml | [OH-].[NH4+]
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 6-(difluoromethoxy)benzo[d]thiazol-2-amine | 52.4 mmol, 12.6 g, 87% yield | FC(OC1=CC2=C(N=C(S2)N)C=C1)F | C8H6F2N2OS
